US09216999B2
rac-(4-{[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol
rac-4-{[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (112 mg, 0.234 mmol) in methanol was stirred with sodium borohydride (13.3 mg, 0.351 mmol) at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure and, after addition of water, extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hi Flash column amino type manufactured by Yamazen Corporation: hexane/ethyl acetate=1/1 (v/v)) to give the title compound as a colorless oil (55 mg, yield 49%).

reactant | rac-4-{[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 0.234 mmol, 112 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](CC1)C)NC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C27H38N4O2Si
reactant | sodium borohydride | 0.351 mmol, 13.3 mg | [BH4-].[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | rac-(4-{[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | 55 mg, yield 49% | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](CC1)C)NC1=C2C(=NC=C1CO)N(C=C2)COCC[Si](C)(C)C | C27H40N4O2Si
